US07514451B2
Using 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (200 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (128 mg), the same procedure was followed as in Example 23 to give 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid as a pale yellow crystal (140 mg).

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 128 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 140 mg | C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C20H22F3N3O3
